US09421205B2
(a) 3-(4-Nitrophenyl)pyridine (I22)
To a solution of 1-iodo-4-nitrobenzene (1.00 g, 4.02 mmol) in nitrogen degassed dry DMF (20 mL) was added 3-pyridineboronic acid (0.592 g, 4.82 mmol), Cs2CO3 (5.23 g, 16.1 mmol), triphenylphosphine (0.158 g, 0.602 mmol) and Pd(OAc)2 (0.090 g, 0.40 mmol). The reaction mixture was heated at 80° C. for 18 hours, cooled to room temperature and concentrated to dryness in vacuo. The crude material was purified by silica gel chromatography (Biotage Isolera, 40 g Si cartridge, 20-100% EtOAc in petroleum benzine 40-60° C.) to give the title compound (I22) (0.590 g, 73% yield) as a yellow solid; 1H NMR (400 MHz, CDCl3) δ 8.90 (d, J=1.8 Hz, 1H), 8.70 (dd, J=4.8, 1.5 Hz, 1H), 8.39-8.32 (m, 2H), 7.93 (ddd, J=7.9, 2.4, 1.7 Hz, 1H), 7.78-7.72 (m, 2H), 7.44 (ddd, J=7.9, 4.8, 0.8 Hz, 1H). LCMS Method C: rt 4.62 min; m/z 201.1 [M+H]+.

reactant | 1-iodo-4-nitrobenzene | 4.02 mmol, 1.00 g | IC1=CC=C(C=C1)[N+](=O)[O-] | C6H4INO2
reactant | 3-pyridineboronic acid | 4.82 mmol, 0.592 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | Cs2CO3 | 16.1 mmol, 5.23 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | triphenylphosphine | 0.602 mmol, 0.158 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | Pd(OAc)2 | 0.40 mmol, 0.090 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-(4-Nitrophenyl)pyridine | 0.590 g, 73% yield | [N+](=O)([O-])C1=CC=C(C=C1)C=1C=NC=CC1 | C11H8N2O2
